US05053509
(RS)-7,9-Difluoro-8-[3-(4-methoxyphenyl)-1-piperazinyl]-1-methyl-4-oxo-1,4-dihydrobenzo [b][1,8]naphthyridine-3-carboxylic acid was prepared under conditions similar to Example 39, starting with (RS)-3-ethoxycarbonyl-7,9-difluoro-8-[3-(4-methoxyphenyl)-1-piperazinyl]-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine (2.8 g) in N aqueous potassium hydroxide (24 cc) and ethanol (25 cc). (RS)-7,9-difluoro-8-[3-(4-methoxyphenyl)-1-piperazinyl]-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid (2 g) is obtained in the form of a yellow solid, m.p. 288°-290° C.

reactant | (RS)-3-ethoxycarbonyl-7,9-difluoro-8-[3-(4-methoxyphenyl)-1-piperazinyl]-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine | 2.8 g | C(C)OC(=O)C=1C(C=2C=C3C(=NC2N(C1)C)C(=C(C(=C3)F)N3CC(NCC3)C3=CC=C(C=C3)OC)F)=O | C27H26F2N4O4
solvent | potassium hydroxide | 24 cc | [OH-].[K+]
solvent | ethanol | 25 cc | C(C)O | C2H6O
product | (RS)-7,9-difluoro-8-[3-(4-methoxyphenyl)-1-piperazinyl]-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 2 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C(=C1N1CC(NCC1)C1=CC=C(C=C1)OC)F | C25H22F2N4O4
